US04364951
2(a) (1S,5R,6R,7R)-6-[(E)-(3R)-3-Benzoyloxy-4-phenoxy-1-butenyl]-7-benzoyloxy-2-oxabicyclo[3.3.0]octan-3-one
Analogously to Example 1(a), 5 g of (1S,5R,6R,7R)-6-[(E)-(3R)-3-hydroxy-4-phenoxy-1-butenyl]-7-benzoyloxy-2-oxabicyclo[3.3.0]octan-3-one, 22 ml of pyridine, and 2.84 g of benzoyl chloride yield 6.1 g of the title compound as a colorless oil.

reactant | (1S,5R,6R,7R)-6-[(E)-(3R)-3-hydroxy-4-phenoxy-1-butenyl]-7-benzoyloxy-2-oxabicyclo[3.3.0]octan-3-one | 5 g | O[C@H](/C=C/[C@@H]1[C@H]2CC(O[C@H]2C[C@H]1OC(C1=CC=CC=C1)=O)=O)COC1=CC=CC=C1 | C24H24O6
reactant | benzoyl chloride | 2.84 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | pyridine | 22 ml | N1=CC=CC=C1 | C5H5N
product | (1S,5R,6R,7R)-6-[(E)-(3R)-3-Benzoyloxy-4-phenoxy-1-butenyl]-7-benzoyloxy-2-oxabicyclo[3.3.0]octan-3-one | C(C1=CC=CC=C1)(=O)O[C@H](/C=C/[C@@H]1[C@H]2CC(O[C@H]2C[C@H]1OC(C1=CC=CC=C1)=O)=O)COC1=CC=CC=C1 | C31H28O7
